US07951963B2
To 1,2-dimethoxyethane (1.00 L) solution of 250 g of 5-bromobenzothiophene were added 276 g of potassium tert-butoxide and 174 g of tert-butyl cyanoacetate. Thereto were added 8.23 g of dichlorobis(triphenylphosphine)palladium(II) and 6.15 g of triphenylphosphine at 80 to 85° C., which was then refluxed for 2 hours. Next, to the reaction mixture were added 500 mL of ethylene glycol, 250 mL of water and 263 g of potassium hydroxide, which was then refluxed for 4 hours. To the reaction mixture were added 1.50 L of water and 12.5 g of kieselguhr (cellpure, product of Advanced Minerals Company). After insoluble matter was filtered off, to the filtrate was added 250 mL of toluene, and the aqueous layer was separated. To the aqueous layer were added 375 mL of toluene and 375 mL of ethyl acetate, the pH was adjusted to 1 with 505 mL of hydrochloric acid, and the organic layer was separated. The organic layer was treated with 12.5 g of activated carbon. The solvent was distilled off under reduced pressure, to which was added toluene. The precipitate was collected by filtration to provide 176 g of 2-(1-benzothiophen-5-yl)acetic acid as white solid form.

reactant | 5-bromobenzothiophene | 250 g | BrC=1C=CC2=C(C=CS2)C1 | C8H5BrS
reactant | potassium tert-butoxide | 276 g | CC(C)([O-])C.[K+]
reactant | tert-butyl cyanoacetate | 174 g | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | potassium hydroxide | 263 g | [OH-].[K+]
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 8.23 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | triphenylphosphine | 6.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 1.50 L | O | H2O
solvent | water | 250 mL | O | H2O
solvent | ethylene glycol | 500 mL | C(CO)O | C2H6O2
solvent | 1,2-dimethoxyethane | 1.00 L | COCCOC | C4H10O2
product | 2-(1-benzothiophen-5-yl)acetic acid | 176 g | S1C=CC2=C1C=CC(=C2)CC(=O)O | C10H8O2S
